US04530929
A solution of 2,3-dihydro-2-oxo-1H-indole-7-propandioic acid dimethyl ester (4.6 g, 0.0166 moles) is dissolved in methanol (50 ml) and 1N sodium hydroxide (33.2 ml, 0.0332 mole) is added. The mixture is stirred at 50° C. for 90 minutes then concentrated at reduced pressure. The residue is dissolved in water (75 ml) and methanol (50 ml). The solution is made acidic with excess Dowex 50X-8 acidic ion exchange resin and heated with stirring at 70° C. for 24 hours. The solution is cooled, filtered, and concentrated to dryness to yield 2,3-dihydro-2-oxo-1H-indole-7-propanoic acid. The 2,3-dihydro-2-oxo-1H-indole-7-propanoic acid is purified by flash chromatography on silica (elution with 9:1 dichloromethane:methanol) NMR spectra: ('H-CDCl13) δ 7.30-7.10 (m, 3H), δ 6.50-6.25 (b, 1H) δ 3.80-3.70 (m, 2H), δ 3.70 (5, 2H), δ 3.28-3.22 (m, 2H).

reactant | 2,3-dihydro-2-oxo-1H-indole-7-propandioic acid dimethyl ester | 0.0166 moles, 4.6 g | COC(C(C(=O)OC)C=1C=CC=C2CC(NC12)=O)=O | C13H13NO5
reactant | sodium hydroxide | 0.0332 mole, 1N, 33.2 ml | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | 2,3-dihydro-2-oxo-1H-indole-7-propanoic acid | O=C1NC2=C(C=CC=C2C1)CCC(=O)O | C11H11NO3
